US04686010
A water-free solution of 3.40 grams of H2O2 (0.1 mole) in 108.1 grams (1.0 mole) of p-cresol was heated to 95° C. and treated with 0.018 gram (0.00015 mole) of SeO2. The temperature increased in connection therewith to 161° C. After 15 minutes there was determined a hydrogen peroxide reaction of 99.4%. At that time there were formed in the reaction mixture 8.08 grams of 4-methylpyrocatechol, which corresponds to a yield of 65.5 mole %, based on the reacted H2O2. 4-Methylresorcinol was formed in an amount of 0.85 mole %.

reactant | H2O2 | 0.1 mole, 3.40 grams | OO | H2O2
reactant | p-cresol | 1.0 mole, 108.1 grams | C1=CC(=CC=C1O)C | C7H8O
solvent | water | O | H2O
product | 4-methylpyrocatechol | 8.08 grams | CC=1C=C(C(O)=CC1)O | C7H8O2
